US05130119
(b) 4-[N-(4-Fluoro-2-trifluoromethylphenyl)sulfamoyl]-benzoic acid-(2,3,4-trihydroxy-butyl)-amide
2.53 g (5 mmol) of 4-[N-(4-fluoro-2-trifluoromethylphenyl)sulfamoyl]-benzoic acid-[2-hydroxy-2-(2,2-dimethyl-1,3-dioxolan-4-yl)-ethylamide] is dissolved in 20 ml of methanol/water 1:1, about 100 mg of cation exchanger Amberlyst 15 is added and warmed for 1 hour to boiling temperature. The ion exchanger is then filtered off and the filtrate is evaporated to dryness in a vacuum. 1.74 g (3.75 mmol)=75% of the theoretical yield of the product is obtained as an amorphous solid.

reactant | 4-[N-(4-fluoro-2-trifluoromethylphenyl)sulfamoyl]-benzoic acid-[2-hydroxy-2-(2,2-dimethyl-1,3-dioxolan-4-yl)-ethylamide] | 5 mmol, 2.53 g | OC(CNC(C1=CC=C(C=C1)S(NC1=C(C=C(C=C1)F)C(F)(F)F)(=O)=O)=O)C1OC(OC1)(C)C | C21H22F4N2O6S
solvent | methanol water | 20 ml | CO.O
product | 4-[N-(4-Fluoro-2-trifluoromethylphenyl)sulfamoyl]-benzoic acid-(2,3,4-trihydroxy-butyl)-amide | OC(CNC(C1=CC=C(C=C1)S(NC1=C(C=C(C=C1)F)C(F)(F)F)(=O)=O)=O)C(CO)O | C18H18F4N2O6S
